US05420158
Stage A: 2-(1-naphthyl)-2-(methoxycarbonyl)acetonitrile
0.1 mol of 2-(1-naphthyl)acetonitrile is dissolved in 120 cm3 of dimethyl carbonate, and the solution is heated to reflux. 0.1 mol of sodium is then added in small portions over 30 min, during which time the methanol evaporates off. The reaction medium is kept refluxing for 1 hour, and the excess dimethyl carbonate is then evaporated off to dryness. The residue is taken up with 100 cm3 of an 18% solution of acetic acid in water.

reactant | 2-(1-naphthyl)acetonitrile | 0.1 mol | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | sodium | 0.1 mol | [Na] | Na
reactant | methanol | CO | CH4O
reactant | dimethyl carbonate | 120 cm3 | C(OC)(OC)=O | C3H6O3
product | 2-(1-naphthyl)-2-(methoxycarbonyl)acetonitrile | C1(=CC=CC2=CC=CC=C12)C(C#N)C(=O)OC | C14H11NO2
